US04831144
A solution of 0.645 g (2.5 mmols) of 1-benzenesulphonyl-1H-pyrrolo[3,2-c]pyridine and 0.755 ml (5 mmols) of tetramethylethylenediamine in 5 ml of tetrahydrofuran was cooled to -70° C. and 5 mmols of tert-butyl lithium in pentane were added, care being taken that the temperature did not exceed -60° C. The reaction medium was then stirred to obtain a solution of 1-benzenesulphonyl-2-lithio-1H-pyrrolo[3,2-c]pyridine which was used as such.

reactant | 1-benzenesulphonyl-1H-pyrrolo[3,2-c]pyridine | 2.5 mmols, 0.645 g | C1(=CC=CC=C1)S(=O)(=O)N1C=CC=2C=NC=CC21 | C13H10N2O2S
reactant | tetramethylethylenediamine | 5 mmols, 0.755 ml | CN(CCN(C)C)C | C6H16N2
reactant | tert-butyl lithium | 5 mmols | C(C)(C)(C)[Li]
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
solvent | pentane | CCCCC | C5H12
product | 1-benzenesulphonyl-2-lithio-1H-pyrrolo[3,2-c]pyridine | C1(=CC=CC=C1)S(=O)(=O)N1C(=CC=2C=NC=CC21)[Li] | InChI=1S/C13H9N2O2S.Li/c16-18(17,12-4-2-1-3-5-12)15-9-7-11-10-14-8-6-13(11)15;/h1-8,10H;
